US06218390B1
To a solution of 5-(3,4-difluoro-phenyl)-morpholin-3-one (0.34 g, 1.57 mmol) in 10 mL of THF was added NaH (0.05 g, 1.9 mmol) and the resulting solution was stirred for 30 min. It was then transferred via a syringe into a solution of 4-nitrophenyl chloroformate in 20 mL of anhydrous THF at −78° C. under argon. The resulting solution was stirred for 2 hours after which the solvent was removed and the residue was purified by column chromatography on silica gel with 1:1 hexane/CH2Cl2 followed by CH2Cl2 to obtain 3-(3,4-difluorophenyl)-5-oxo-morpholine-4-carboxylic acid-4-nitro-phenyl ester as a colorless thick oil (0.31 g, 51%).

reactant | 5-(3,4-difluoro-phenyl)-morpholin-3-one | 1.57 mmol, 0.34 g | FC=1C=C(C=CC1F)C1COCC(N1)=O | C10H9F2NO2
reactant | NaH | 1.9 mmol, 0.05 g | [H-].[Na+]
reactant | 4-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(3,4-difluorophenyl)-5-oxo-morpholine-4-carboxylic acid-4-nitro-phenyl ester | 0.31 g, 51% | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)N1C(COCC1=O)C1=CC(=C(C=C1)F)F | C17H12F2N2O6
